US08623889B2
Step 1: 3-oxabicyclo[3.1.0]hexane-6-carboxylic acid
Ethyl diazoacetate (0.5 mL, 5.0 mmol) was added dropwise to a solution of 2,5-dihydrofuran (1.3 g, 19 mmol) and rhodium(II) acetate dimer (100 mg, 0.24 mmol) in methylene chloride (15 mL)—caution: gas evolution. The reaction mixture was stirred for 16 hours at room temperature, and then diluted with methylene chloride (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was redissolved in methanol (20 mL) and treated with lithium hydroxide (170 mg, 7.1 mmol). The mixture was stirred at room temperature for 3 hours, and then diluted with methylene chloride (100 mL), 1.0N sodium hydroxide solution in water (15 mL) and water (10 mL). The aqueous layer was separated, acidified to pH 3 via addition of solid citric acid, and then extracted with methylene chloride (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a yellow solid that was used in the next step without further purification.

reactant | Ethyl diazoacetate | 5.0 mmol, 0.5 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | 2,5-dihydrofuran | 19 mmol, 1.3 g | O1CC=CC1 | C4H6O
reactant | lithium hydroxide | 7.1 mmol, 170 mg | [OH-].[Li+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 10 mL | O | H2O
catalyst | rhodium(II) acetate dimer | 0.24 mmol, 100 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | 3-oxabicyclo[3.1.0]hexane-6-carboxylic acid | C12COCC2C1C(=O)O | C6H8O3
